US06426345B1
A mixture of N-(3-nitrophenyl)-2-naphthalenecarboxamide (2.94 g), iron powder (3.0 g) and hydrochloric acid (35%, 9 ml) in ethanol (30 ml) was stirred at 80° C. for 2 hours. Then the mixture was poured into aqueous sodium bicarbonate and extracted with ethyl acetate twice. The combined organic phase was washed with aqueous sodium bicarbonate and brine, dried over magnesium sulfate and concentrated. The resultant solid was collected and washed with isopropyl ether to give N-(3-aminophenyl)-2-naphthalenecarboxamide (2.17 g).

reactant | N-(3-nitrophenyl)-2-naphthalenecarboxamide | 2.94 g | [N+](=O)([O-])C=1C=C(C=CC1)NC(=O)C1=CC2=CC=CC=C2C=C1 | C17H12N2O3
reactant | hydrochloric acid | 9 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | iron | 3.0 g | [Fe] | Fe
product | N-(3-aminophenyl)-2-naphthalenecarboxamide | 2.17 g | NC=1C=C(C=CC1)NC(=O)C1=CC2=CC=CC=C2C=C1 | C17H14N2O
